US05344843
A mixture of 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester (0.776 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.175 g), stirred for 15 minutes and then 1-[4-(3-bromopropoxy)-2-hydroxy-3-propylphenyl] ethanone (1.26 g) was added and rinsed in with a little dimethylformamide. The mixture was heated at 50° C. for 6 hours and worked up as in Example 20. The crude material was purified by HPLC (ethyl acetate-hexane; 1:4) to furnish 0.7 g of 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-alpha-oxobenzeneacetic acid ethyl ester as an oil.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester | 0.776 g | C(C)OC(C(C1=CC=C(C=C1)O)=O)=O | C10H10O4
reactant | sodium hydride | 0.175 g | [H-].[Na+]
reactant | 1-[4-(3-bromopropoxy)-2-hydroxy-3-propylphenyl] ethanone | 1.26 g | BrCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C14H19BrO3
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.7 g | C(C)OC(C(C1=CC=C(C=C1)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O)=O | C24H28O7
